US03933849
The compound 6-methyl-9-cyanoethylcarbazole was prepared by stirring 6-methylcarbazole (0.05 mole) in acrylonitrile (0.20 mole) at 0°C. After adding about 1 cc. of benzyl trimethyl ammonium hydroxide, the mixture was stirred on a steam bath for one hour and then treated with boiling benzene (200 cc.). The benzene was distilled and evaporated to dryness. The yellow solid obtained was recrystallized from benzene with Norit treatment to yield 6-methyl-9-cyanoethylcarbazole as an off-white solid, melting range 124°-124.5°C.

reactant | 6-methylcarbazole | 0.05 mole | CC=1C=C2C=3C=CC=CC3NC2=CC1 | C13H11N
reactant | acrylonitrile | 0.20 mole | C(C=C)#N | C3H3N
reactant | benzyl trimethyl ammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | benzene | 200 cc | C1=CC=CC=C1 | C6H6
product | 6-methyl-9-cyanoethylcarbazole | CC=1C=C2C=3C=CC=CC3N(C2=CC1)CCC#N | C16H14N2
